US07531482B2
Preparation of 3-[2-(5-chlorothieno[2.3-d]pyrimidin-4-ylamino)ethyl]phenol
Into a 250-mL, 3-necked, round-bottom flask, equipped with a mechanical stirrer, condenser, dropping funnel, and thermocouple temp monitor, under an atmosphere of nitrogen was added N,N-dimethylformamide (75 mL) , 4,5-dichlorothieno[2,3-d]pyrimidine (7.47 g, 36 mmol), 3-hydroxyphenethylamine hydrochloride (5.0 g, 28.8 mmol), and triethylamine (10.7 mmol). After exothermic mixing of the reagents raised the temperature of the reaction mixture to 33° C., the mixture was allowed to stir overnight while returning to 25° C. Then the mixture was poured into water and extracted with warm (60° C.) ethyl acetate (5×70 mL). The combined organic phases were washed with water (2×70 mL), brine (70 mL), dried (MgSO4), filtered through silica gel/Celite plug, and most of the solvent removed in vacuo to give a yellow oil. The oil was dissolved in ethyl acetate (100 mL), heated to reflux, and allowed to cool to 25° C. A yellow crystalline solid formed, and was removed via suction filtration; the product was air dried on the funnel for 3 h, to give 6.34 g, 20.8 mmol, 72 percent yield, 164-165° C.

reactant | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
reactant | 4,5-dichlorothieno[2,3-d]pyrimidine | 36 mmol, 7.47 g | ClC=1C2=C(N=CN1)SC=C2Cl | C6H2Cl2N2S
reactant | 3-hydroxyphenethylamine hydrochloride | 28.8 mmol, 5.0 g | Cl.OC=1C=C(CCN)C=CC1
reactant | triethylamine | 10.7 mmol | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[2-(5-chlorothieno[2.3-d]pyrimidin-4-ylamino)ethyl]phenol | 72 percent yield | ClC1=CSC=2N=CN=C(C21)NCCC=2C=C(C=CC2)O | C14H12ClN3OS
